US09315491B2
4-(5-(Methylthio)-4-morpholinopyrimidin-2-yl)benzenamine
A mixture of 4-(2-chloro-5-(methylthio)pyrimidin-4-yl)morpholine (0.3 g, 1.22 mmole), 4-aminophenylboronic acid pinacol ester (0.58 g, 2.68 mmole), sodium bicarbonate (0.28 g, 2.68 mmole), Pd(PPh3)4 (0.14 g, 0.122 mmole), dioxane (15 ml) and H2O (3.5 ml) was heated to reflux. After 12 hrs, the reaction mixture was cooled, diluted with EA, washed with brine, and dried (MgSO4), and the solvent was removed in vacuo. Purification on silica gel (EA/Hex=1/2) yielded the desired compound (180 mg, 49%).

reactant | 4-(2-chloro-5-(methylthio)pyrimidin-4-yl)morpholine | 1.22 mmole, 0.3 g | ClC1=NC=C(C(=N1)N1CCOCC1)SC | C9H12ClN3OS
reactant | 4-aminophenylboronic acid pinacol ester | 2.68 mmole, 0.58 g | NC1=CC=C(C=C1)B1OC(C)(C)C(C)(C)O1 | C12H18BNO2
reactant | sodium bicarbonate | 2.68 mmole, 0.28 g | C([O-])(O)=O.[Na+]
reactant | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | EA | CC(OCC)=O | C4H8O2
catalyst | Pd(PPh3)4 | 0.122 mmole, 0.14 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | H2O | 3.5 ml | O | H2O
product | 4-(5-(Methylthio)-4-morpholinopyrimidin-2-yl)benzenamine | 180 mg, 49% | CSC=1C(=NC(=NC1)C1=CC=C(C=C1)N)N1CCOCC1 | C15H18N4OS
